US04195023
A solution of 19.5 g (0.1 mole) of 3-oxo-1,2-benzisothiazoline-6-carboxylic acid in 40 ml of isopropanol is treated with an excess of a solution of diazomethane in ether added at 0° C. with stirring over a period of 10 minutes. The reaction mixture is evaporated to dryness and the 3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester is obtained as an oil.

reactant | 3-oxo-1,2-benzisothiazoline-6-carboxylic acid | 0.1 mole, 19.5 g | O=C1NSC2=C1C=CC(=C2)C(=O)O | C8H5NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C(NS2)=O)C=C1 | C9H7NO3S
